US07989633B2
Methyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
250 mg (0.75 mmol) of 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione are dissolved with 116 mg (1.0 mmol) of methyl 3-aminocrotonate in 5 ml of ethanol and heated under reflux under argon for 24 h. The reaction solution is purified by preparative HPLC. Concentration of the product fractions and crystallization from ethyl acetate result in 158 mg (49% of theory) of the title compound as a yellow solid.

reactant | 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione | 0.75 mmol, 250 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)C1=CC=CC=C1)C(C)=O | C21H16O4
reactant | methyl 3-aminocrotonate | 1.0 mmol, 116 mg | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Methyl 5-benzoyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C=1C=CC=C2C(C=C(OC12)C)=O | C26H23NO5
